US07935815B2
Synthesis of tert-butyl N′-(5-chloro-2-cyclopropyl-pentanoyl)-hydrazinecarboxylate
IPEA (1.6 ml) and BOPCl (1.2 g) were added to a solution of the crude 5-chloro-2-cyclopropyl-valeric acid (550 mg) and tert-butyl carbazate (CAS No. 870-46-2, 555 mg) in methylene chloride (5 ml), and the reaction solution was stirred at room temperature for three hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer was sequentially washed with 1 N hydrochloric acid, water, a saturated sodium bicarbonate solution and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 210 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 1.6 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | BOPCl | 1.2 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | 5-chloro-2-cyclopropyl-valeric acid | 550 mg | ClCCCC(C(=O)O)C1CC1 | C8H13ClO2
reactant | tert-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N′-(5-chloro-2-cyclopropyl-pentanoyl)-hydrazinecarboxylate | 210 mg | ClCCCC(C(=O)NNC(=O)OC(C)(C)C)C1CC1 | C13H23ClN2O3
